US07968573B2
In 10 ml of N,N-dimethylformamide was dissolved 0.65 g of 1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde, and then 0.53 g of N-bromosuccinimide was added thereto. The mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture, a deposited precipitate was collected by filtration to obtain 0.85 g of 4-bromo-1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde | 0.65 g | ClC1=C(C(=CC=C1)Cl)N1C(=CC=C1)C=O | C11H7Cl2NO
reactant | N-bromosuccinimide | 0.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-bromo-1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde | 0.85 g | BrC=1C=C(N(C1)C1=C(C=CC=C1Cl)Cl)C=O | C11H6BrCl2NO
